US06924374B2
1-Allyl-4-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine
Beginning with 1-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine and allylbromide, the title compound was recovered by the procedure described in Example 2: MS m/z (rel. intensity, 70 eV)) 310 (M+, 91), 214 (73), 96 (86), 69 (80), 56 (bp).

reactant | 1-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine | CS(=O)(=O)C=1C=C(C=CC1OC)N1CCNCC1 | C12H18N2O3S
reactant | allylbromide | C(C=C)Br | C3H5Br
product | 1-Allyl-4-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine | C(C=C)N1CCN(CC1)C1=CC(=C(C=C1)OC)S(=O)(=O)C | C15H22N2O3S
